US08486950B2
2,6-dichloro-4-iodo-N-(pyridine-4-yl)benzamide
Thionyl chloride (20 mL) was added to 2,6-dichloro-4-iodobenzoic acid (1.5 g, 4.73 mmol) and the mixture was heated to reflux for 5 h under nitrogen. After cooling the mixture was concentrated under reduced pressue. Toluene (10 mL) was added and the mixture was concentrated under reduced pressure again to remove residual thionyl chloride. The residue was dissolved in anhydrous THF (20 mL) and this was added dropwise to a cooled (0° C.) solution of 4-aminopyridine (0.53 g, 5.68 mmol) and triethylamine (1.32 mL, 9.46 mmol) in anhydrous THF (20 mL). After addition was complete, the mixture was stirred at room temperature under nitrogen overnight. The reaction was poured onto the ice water (50 mL) and extracted with EtOAc (2×50 mL). The combined organic extracts were dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hexanes/EtOAc=3:1) to afford the desired product (1.8 g, yield: 97%.) 1HNMR (DMSO-d6, 400 MHz): 611.14 (s, 1H), 8.47 (dd, J=1.6, 4.8 Hz, 2H), 8.03 (d, J=2.0 Hz, 2H), 7.59 (dd, J=1.6, 4.8 Hz, 2H). LCMS (ESI) m/z: 393.0 [M+H+].

reactant | Thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2,6-dichloro-4-iodobenzoic acid | 4.73 mmol, 1.5 g | ClC1=C(C(=O)O)C(=CC(=C1)I)Cl | C7H3Cl2IO2
reactant | 4-aminopyridine | 5.68 mmol, 0.53 g | NC1=CC=NC=C1 | C5H6N2
reactant | triethylamine | 9.46 mmol, 1.32 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2,6-dichloro-4-iodo-N-(pyridine-4-yl)benzamide | 1.8 g, yield: 97% | ClC1=C(C(=O)NC2=CC=NC=C2)C(=CC(=C1)I)Cl | C12H7Cl2IN2O
